US08426601B2
1-bromo-3-iodobenzene (1.118 g, 3.95 mol) and 3-pyridine boronic acid (0.559 g, 4.54 mol) were added to a 100 mL three neck round bottom flask. To this flask, dioxane (20 mL) and aqueous K2CO3 (2 N, 20 mL) were added. The mixture was stirred and degassed with a steam of argon for 30 minutes. Then under argon atmosphere, 50 mg (0.04 mmol) of Pd(PPh3)4 (1%) was added. The mixture was heated to 100° C. and stirred overnight. The next day, the solvent was removed by roto-evaporation and the residue was suspended into an equal amount of water (50 mL) and CH2Cl2 (50 mL). The organic layer was separated from aqueous layer and washed with brine (50 mL×3). After drying over Na2SO4, and removal of the drying agent, about 0.92 g of 3-(3-bromophenyl)pyridine product (100%) was afforded. 1H NMR (400 MHz, CDC3) 8.85 (s, 1H), 8.65 (d, 1H), 7.87 (d, 1H), 7.75 (s, 1H), 7.57-7.52 (m, 2H), 7.41-7.35 (m, 2H).

reactant | 1-bromo-3-iodobenzene | 3.95 mol, 1.118 g | BrC1=CC(=CC=C1)I | C6H4BrI
reactant | 3-pyridine boronic acid | 4.54 mol, 0.559 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | K2CO3 | 2 N, 20 mL | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(PPh3)4 | 0.04 mmol, 50 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 3-(3-bromophenyl)pyridine | about 0.92 g, 100% | BrC=1C=C(C=CC1)C=1C=NC=CC1 | C11H8BrN
